US06008230
A solution of 8-(2,6-dichlorobenzoylamino)quinoline (100 mg) and m-chloroperbenzoic acid (71 mg) in ethylene chloride was stirred for 1 hour at 40° C. To the mixture was added 5% sodium thiosulfate solution, and the mixture was partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from dichloromethane-methanol to give 8-(2,6-dichlorobenzoylamino)quinoline 1-oxide (48 mg).

reactant | 8-(2,6-dichlorobenzoylamino)quinoline | 100 mg | ClC1=C(C(=O)NC=2C=CC=C3C=CC=NC23)C(=CC=C1)Cl | C16H10Cl2N2O
reactant | m-chloroperbenzoic acid | 71 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethylene chloride | C(CCl)Cl | C2H4Cl2
product | 8-(2,6-dichlorobenzoylamino)quinoline 1-oxide | 48 mg | ClC1=C(C(=O)NC=2C=CC=C3C=CC=[N+](C23)[O-])C(=CC=C1)Cl | C16H10Cl2N2O2
